US05239083
4-{2-[3-[1-(1-methylethyl)butylindol-5-yl]isocrotonoyl amino]phenoxy}butyric acid (Compound 21)
0.93 g of compound 21 was obtained in a similar manner to those described in the Examples 1 and 2 using 2.20 g of ethyl 4-(2-aminophenoxy)butyrate and 1.50 g of 3-[1-(1-methylethyl)butylindol-5-yl]isocrotonic acid obtained according to the procedures described in the Reference Examples 1-4.

reactant | ethyl 4-(2-aminophenoxy)butyrate | 2.20 g | NC1=C(OCCCC(=O)OCC)C=CC=C1 | C12H17NO3
reactant | 3-[1-(1-methylethyl)butylindol-5-yl]isocrotonic acid | 1.50 g | CC(C)C(CCC)C=1NC2=CC=C(C=C2C1)/C(=C/C(=O)O)/C | C19H25NO2
product | 4-{2-[3-[1-(1-methylethyl)butylindol-5-yl]isocrotonoyl amino]phenoxy}butyric acid | CC(C)C(CCC)C=1NC2=CC=C(C=C2C1)/C(=C/C(=O)NC1=C(OCCCC(=O)O)C=CC=C1)/C | C29H36N2O4
